US05021443
10 g of 2-(4-chlorobenzylamino)-5-fluoroaniline, prepared in Example 8, are dissolved in 100 ml of chloroform, stabilized with amylene, and 6 ml of triethylamine. A solution of 8.25 g of the acid chloride ethyl ester of 3,3-dimethylglutaric acid, prepared in Example 28, in 20 ml of chloroform, stabilized with amylene, is added dropwise. The mixture is stirred for two hours at room temperature, the crystals formed are filtered off and the solvents are evaporated off under vacuum. The residue obtained is dissolved in 200 ml of ethanol and 30 ml of concentrated hydrochloric acid and the mixture is refluxed for 10 hours. The solvents are evaporated off to dryness and the residue is taken up with water and then extracted with ethyl acetate. The organic phase is dried and evaporated under vacuum to give 14 g of ethyl 4-[1-(4-chlorobenzyl)-5-fluorobenzimidazol-2-yl]-3,3-dimethylbutanoate in the form of an oil, which is used as such for the next step.

reactant | 2-(4-chlorobenzylamino)-5-fluoroaniline | 10 g | ClC1=CC=C(CNC2=C(N)C=C(C=C2)F)C=C1 | C13H12ClFN2
reactant | amylene | CC=C(C)C | C5H10
reactant | 3,3-dimethylglutaric acid | CC(CC(=O)O)(CC(=O)O)C | C7H12O4
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
product | ethyl 4-[1-(4-chlorobenzyl)-5-fluorobenzimidazol-2-yl]-3,3-dimethylbutanoate | 14 g | ClC1=CC=C(CN2C(=NC3=C2C=CC(=C3)F)CC(CC(=O)OCC)(C)C)C=C1 | C22H24ClFN2O2
